US08563541B2
Intermediate C-4: (6Z)-5H-dipyrido[2,3-b: 4′,3′-f]azepine-5,6(1H)-dione 6-oxime
A solution of sodium nitrite (3.3 g, 0.048 mol) in water (14.4 mL) was added dropwise to a solution of 6,11-dihydro-5H-dipyrido[2,3-b:4′,3′-f]azepin-5-one (4.22 g, 0.02 mol) in acetic acid (80 mL) at room temperature. After the addition was completed, the reaction was stirred for 1.5 hours and 100 mL of water was then added. The mixture was stirred for additional 10 minutes, filtered and dried to give 4.18 g of the desired product. 1H NMR (400 MHz, CD3OD): δ 8.70 (s, 1H), 8.48-8.51 (m, 2H), 8.32 (d, 1H, J=5.2 Hz), 7.56 (d, 1H, J=5.6 Hz), 7.07 (dd, 1H, J1=8 Hz, J2=4.8 Hz). MS [M+H]=241.

reactant | sodium nitrite | 0.048 mol, 3.3 g | N(=O)[O-].[Na+]
reactant | 6,11-dihydro-5H-dipyrido[2,3-b:4′,3′-f]azepin-5-one | 0.02 mol, 4.22 g | N1=CC=CC2=C1NC1=C(CC2=O)C=CN=C1 | C12H9N3O
solvent | water | 14.4 mL | O | H2O
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
solvent | water | 100 mL | O | H2O
product | (6Z)-5H-dipyrido[2,3-b: 4′,3′-f]azepine-5,6(1H)-dione 6-oxime | 4.18 g | N1C=CC=C2C1=NC1=C(/C(/C2=O)=N/O)C=CN=C1 | C12H8N4O2
